US09359371B2
In DCM (5 mL) was dissolved 4-((3-chloro-4-methoxybenzyl)amino)-2-(methylthio)-N-(pyrimidin-2-ylmethyl)pyrimidine-5-formamide (150 mg, 0.35 mmol). m-CPBA (3-chloroperbenzoic acid, 110 mg, 0.64 mmol) was added at 0° C. The reaction was conducted for 30 min at ambient temperature. Then the reaction mixture was washed with water and extracted with DCM. The organic phase was dried, and the solvent was removed by rotary evaporation. Purification was performed by silica gel column chromatography (DCM/methanol=50/1) to give solid 4-((3-chloro-4-methoxybenzyl)amino)-2-(methylsulphinyl)-N-(pyrimidin-2-ylmethyl)pyrimidine-5-formamide (100 mg, 64% yield).

reactant | 4-((3-chloro-4-methoxybenzyl)amino)-2-(methylthio)-N-(pyrimidin-2-ylmethyl)pyrimidine-5-formamide | 0.35 mmol, 150 mg | ClC=1C=C(CNC2=NC(=NC=C2C(=O)NCC2=NC=CC=N2)SC)C=CC1OC | C19H19ClN6O2S
reactant | m-CPBA | 0.64 mmol, 110 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-((3-chloro-4-methoxybenzyl)amino)-2-(methylsulphinyl)-N-(pyrimidin-2-ylmethyl)pyrimidine-5-formamide | 100 mg, 64% yield | ClC=1C=C(CNC2=NC(=NC=C2C(=O)NCC2=NC=CC=N2)S(=O)C)C=CC1OC | C19H19ClN6O3S
